*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 4.2
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_0 1 2 3 4 REF
C_C1 1 REF 0.9888945196805pf
C_C2 1 2 13.522863998161pf
C_C3 1 3 0.0143919228072pf
C_C4 1 4 0.1964460340531pf
C_C5 2 REF 1.1638296061002pf
C_C6 2 3 0.1043429202721pf
C_C7 3 REF 0.3713984244355pf
C_C8 3 4 7.2673909623814pf
C_C9 4 REF 0.3726672203479pf
L_L1 3 5 1.3102673518039nh
R_RL1 5 4 -2.040913056e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_1 1 2 3 4 REF
C_C1 1 REF 0.7973713717872pf
C_C2 1 2 13.823381370966pf
C_C3 1 3 0.0144239112698pf
C_C4 1 4 0.1972330404483pf
C_C5 2 REF 0.9738467391008pf
C_C6 2 3 0.1039083332357pf
C_C7 3 REF 0.3718265143967pf
C_C8 3 4 5.3806399933237pf
C_C9 4 REF 0.3717575509574pf
R_R1 1 2 782.66397556629
L_L1 3 5 1.3118164925249nh
R_RL1 5 4 6.8163427358e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_2 1 2 3 4 REF
C_C1 1 REF 0.6581825661248pf
C_C2 1 2 14.135343710057pf
C_C3 1 3 0.014343081738pf
C_C4 1 4 0.1988465657452pf
C_C5 2 REF 0.8373396035344pf
C_C6 2 3 0.1037407110431pf
C_C7 3 REF 0.3721003511277pf
C_C8 3 4 4.0644444407712pf
C_C9 4 REF 0.3708770215883pf
R_R1 1 2 784.99005061943
L_L1 3 5 1.3131053567815nh
R_RL1 5 4 4.1088116859e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_3 1 2 3 4 REF
C_C1 1 REF 0.534728721891pf
C_C2 1 2 14.553262913124pf
C_C3 1 3 0.0140667280005pf
C_C4 1 4 0.2018849577177pf
C_C5 2 REF 0.7186017064724pf
C_C6 2 3 0.1038446779829pf
C_C7 3 REF 0.3723051581917pf
C_C8 3 4 2.9333133733538pf
C_C9 4 REF 0.3698689579679pf
R_R1 1 2 819.21026415065
L_L1 3 5 1.3144078883004nh
R_RL1 5 4 1.0697287507e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_4 1 2 3 4 REF
C_C1 1 REF 0.4335705919397pf
C_C2 1 2 15.094618677362pf
C_C3 1 3 0.0134884686094pf
C_C4 1 4 0.2066672499476pf
C_C5 2 REF 0.6245383090803pf
C_C6 2 3 0.104323319016pf
C_C7 3 REF 0.3724446465206pf
C_C8 3 4 2.0282676936369pf
C_C9 4 REF 0.368849795371pf
R_R1 1 2 902.05653507782
L_L1 3 5 1.3157069569351nh
R_RL1 5 4 -2.231958638e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_5 1 2 3 4 REF
C_C1 1 REF 0.3655757215029pf
C_C2 1 2 15.690774370153pf
C_C3 1 3 0.0126213339945pf
C_C4 1 4 0.2125729062169pf
C_C5 2 REF 0.565006194137pf
C_C6 2 3 0.1051428842988pf
C_C7 3 REF 0.3725337740803pf
C_C8 3 4 1.4306383314768pf
C_C9 4 REF 0.3680589310867pf
L_L1 3 5 1.3167532460973nh
R_RL1 5 4 -5.08536686e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_6 1 2 3 4 REF
C_C1 1 REF 0.3185661541314pf
C_C2 1 2 16.346524464341pf
C_C3 1 3 0.0114579542293pf
C_C4 1 4 0.2194778014375pf
C_C5 2 REF 0.5276549313518pf
C_C6 2 3 0.1062680261521pf
C_C7 3 REF 0.3726152722132pf
C_C8 3 4 1.0222145989383pf
C_C9 4 REF 0.3674945507392pf
L_L1 3 5 1.3176098770117nh
R_RL1 5 4 -7.482464457e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_7 1 2 3 4 REF
C_C1 1 REF 0.2808212013428pf
C_C2 1 2 17.198157905823pf
C_C3 1 4 0.228773631236pf
C_C4 2 REF 0.502691180264pf
C_C5 2 3 0.107965552547pf
C_C6 3 REF 0.3727274666228pf
C_C7 3 4 0.6971983327955pf
C_C8 4 REF 0.3670984436442pf
L_L1 3 5 1.3184144158439nh
R_RL1 5 4 -9.680904805e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_8 1 2 3 4 REF
C_C1 1 REF 0.2515846224355pf
C_C2 1 2 18.279724005338pf
C_C3 1 4 0.2408120134437pf
C_C4 2 REF 0.4898382009654pf
C_C5 2 3 0.11037888959pf
C_C6 3 REF 0.372880632635pf
C_C7 3 4 0.4477170617736pf
C_C8 4 REF 0.3669182101256pf
L_L1 3 5 1.319169675299nh
R_RL1 5 4 -1.154159335e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_9 1 2 3 4 REF
C_C1 1 REF 0.2296943262931pf
C_C2 1 2 19.667229719961pf
C_C3 1 4 0.2563932466375pf
C_C4 2 REF 0.4890411637986pf
C_C5 2 3 0.1138003863153pf
C_C6 3 REF 0.3730662193645pf
C_C7 3 4 0.2645618979263pf
C_C8 4 REF 0.366973102817pf
L_L1 3 5 1.3198354347971nh
R_RL1 5 4 -1.277007566e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_10 1 2 3 4 REF
C_C1 1 REF 0.2129478703619pf
C_C2 1 2 21.432285298883pf
C_C3 1 4 0.2762239337362pf
C_C4 2 REF 0.4990582080073pf
C_C5 2 3 0.1185431192787pf
C_C6 3 REF 0.3732453045097pf
C_C7 3 4 0.1325399822513pf
C_C8 4 REF 0.3672181123067pf
L_L1 1 5 81.877886670691nh
R_RL1 5 2 13.13536585249
L_L2 3 6 1.320419440914nh
R_RL2 6 4 -1.322796049e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_11 1 2 3 4 REF
C_C1 1 REF 0.1989481328069pf
C_C2 1 2 23.73091886509pf
C_C3 1 4 0.3019131938837pf
C_C4 2 REF 0.5195503913797pf
C_C5 2 3 0.1252306651662pf
C_C6 3 REF 0.3733604980535pf
C_C7 3 4 0.0402268328755pf
C_C8 4 REF 0.3675905625277pf
L_L1 1 5 51.521865966069nh
R_RL1 5 2 7.237302050047
L_L2 3 6 1.3208737027549nh
R_RL2 6 4 -1.272874435e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_12 1 2 3 4 REF
C_C1 1 REF 0.184704313676pf
C_C2 1 2 26.75599069345pf
C_C3 1 4 0.3354304306889pf
C_C4 2 REF 0.5498867521093pf
C_C5 2 3 0.1346359248876pf
C_C6 3 REF 0.3733557087232pf
C_C7 4 REF 0.3680130821632pf
L_L1 1 5 32.224047769386nh
R_RL1 5 2 3.6347216643219
L_L2 3 6 1.3210312447967nh
R_RL2 6 4 -1.122865538e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_13 1 2 3 4 REF
C_C1 1 REF 0.1661947231331pf
C_C2 1 2 30.922732007295pf
C_C3 1 4 0.3811260966283pf
C_C4 2 REF 0.5913047713986pf
C_C5 2 3 0.1483193665057pf
C_C6 3 REF 0.3731819459224pf
C_C7 4 REF 0.3684384822293pf
L_L1 1 5 19.843014639879nh
R_RL1 5 2 1.6330699469254
L_L2 3 6 1.3207775594432nh
R_RL2 6 4 -8.769856709e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_14 1 2 3 4 REF
C_C1 1 REF 0.1377438560421pf
C_C2 1 2 36.882537968574pf
C_C3 1 4 0.445881400407pf
C_C4 2 REF 0.6464769653342pf
C_C5 2 3 0.1686614595006pf
C_C6 3 REF 0.3728160845358pf
C_C7 4 REF 0.3688643949655pf
R_R1 1 2 -956.8097096236
L_L1 1 5 11.807026523722nh
R_RL1 5 2 0.6091846182326
L_L2 3 6 1.3203564091481nh
R_RL2 6 4 -5.513444648e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_15 1 2 3 4 REF
C_C1 1 REF 0.0882780291966pf
C_C2 1 2 46.131500722832pf
C_C3 1 4 0.5456506588015pf
C_C4 2 REF 0.7240707193202pf
C_C5 2 3 0.2010236546682pf
C_C6 3 REF 0.3722291075239pf
C_C7 4 REF 0.3693708126542pf
R_R1 1 2 -817.6737027739
L_L1 1 5 6.3050015958875nh
R_RL1 5 2 0.173970441679
L_L2 3 6 1.3196325225076nh
R_RL2 6 4 -1.847335147e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_16 1 2 3 4 REF
C_C1 1 2 63.209575186933pf
C_C2 1 4 0.7290696852257pf
C_C3 2 REF 0.854115516934pf
C_C4 2 3 0.2615278023567pf
C_C5 3 REF 0.3713076948168pf
C_C6 4 REF 0.3702597994447pf
R_R1 1 2 -641.1852828096
L_L1 1 5 3.6979067451077nh
R_RL1 5 2 0.2209970538056
L_L2 3 6 1.3182894597372nh
R_RL2 6 4 2.4393847298e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_17 1 2 3 4 REF
C_C1 1 2 101.63584877696pf
C_C2 1 4 1.1410349298211pf
C_C3 2 REF 1.1259527453656pf
C_C4 2 3 0.3981335507352pf
C_C5 3 REF 0.3697532900746pf
C_C6 4 REF 0.3724976173469pf
R_R1 1 2 -429.2798995613
L_L1 1 5 1.5275076905207nh
R_RL1 5 2 0.0392665963508
L_L2 1 6 67.055274816988nh
R_RL2 6 3 0.0043440818233
L_L3 1 7 66.302358307068nh
R_RL3 7 4 0.004577809589
L_L4 2 8 67.139201002333nh
R_RL4 8 3 0.00612707319
L_L5 2 9 66.389138306872nh
R_RL5 9 4 0.005934810089
L_L6 3 10 1.3153174727229nh
R_RL6 10 4 6.1317094822e-5
Kn_K1 L_L1 L_L2 0.0713186539107
Kn_K2 L_L1 L_L3 0.0715806630504
Kn_K3 L_L1 L_L4 -0.079561453123
Kn_K4 L_L1 L_L5 -0.0801513277
Kn_K5 L_L2 L_L3 0.9901526974499
Kn_K6 L_L2 L_L4 0.9886174022001
Kn_K7 L_L2 L_L5 0.9786873672397
Kn_K8 L_L2 L_L6 -0.11011282528
Kn_K9 L_L3 L_L4 0.9787367360145
Kn_K10 L_L3 L_L5 0.9884884888695
Kn_K11 L_L3 L_L6 0.0301117694869
Kn_K12 L_L4 L_L5 0.990165147451
Kn_K13 L_L4 L_L6 -0.109892139297
Kn_K14 L_L5 L_L6 0.0302447803796
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_18 1 2 3 4 REF
C_C1 1 2 230.97410848432pf
C_C2 1 4 2.5275454406461pf
C_C3 2 REF 2.0066225605767pf
C_C4 2 3 0.8572724760089pf
C_C5 3 REF 0.3659407750359pf
C_C6 4 REF 0.3811190671483pf
R_R1 1 2 -245.6703650422
L_L1 1 5 60.580508213288nh
R_RL1 5 REF 0.6967934892745
L_L2 1 6 0.4584220561839nh
R_RL2 6 2 0.0077505765928
L_L3 1 7 23.239406586213nh
R_RL3 7 3 0.0055382433546
L_L4 1 8 22.541573413698nh
R_RL4 8 4 0.005594352617
L_L5 2 9 60.210883271659nh
R_RL5 9 REF 0.6989561776919
L_L6 2 10 23.314069423122nh
R_RL6 10 3 0.0011252081118
L_L7 2 11 22.620153053499nh
R_RL7 11 4 0.0010323605115
L_L8 3 12 83.306562862199nh
R_RL8 12 REF 0.5205351647943
L_L9 3 13 1.3054274682682nh
R_RL9 13 4 8.584083767e-5
L_L10 4 14 82.598494132006nh
R_RL10 14 REF 0.5221762837276
Kn_K1 L_L1 L_L2 0.0785643972082
Kn_K2 L_L1 L_L5 0.996209509124
Kn_K3 L_L1 L_L8 0.8491469601417
Kn_K4 L_L1 L_L10 0.8527064657913
Kn_K5 L_L2 L_L3 0.0587873057534
Kn_K6 L_L2 L_L4 0.059081103539
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081531340837
Kn_K9 L_L2 L_L7 -0.083380623756
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9715982546695
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9901540591056
Kn_K15 L_L3 L_L7 0.961540276742
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.181852205335
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9617566306228
Kn_K21 L_L4 L_L7 0.9898508222988
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0560035046412
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.84861277426
Kn_K26 L_L5 L_L10 0.85214200329
Kn_K27 L_L6 L_L7 0.9716913865669
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.181205792668
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0562665393796
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.096539453681
Kn_K35 L_L8 L_L10 0.99214051475
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_19 1 2 3 4 REF
C_C1 1 2 2719.1343650833pf
C_C2 1 4 29.211138141786pf
C_C3 2 REF 18.775463249206pf
C_C4 2 3 9.6691524845901pf
C_C5 3 REF 0.3057849467965pf
C_C6 4 REF 0.5600355121777pf
R_R1 1 2 6.8880796411189
R_R2 1 4 689.28578793232
R_R3 2 4 -687.2525275818
L_L1 1 5 3.2437660299467nh
R_RL1 5 REF -7.749954962e-4
L_L2 1 6 0.0265057269442nh
R_RL2 6 2 -1.455540618e-3
L_L3 1 7 2.1522532021407nh
R_RL3 7 3 -3.447439904e-4
L_L4 1 8 1.5724025015422nh
R_RL4 8 4 -6.839397919e-4
L_L5 2 9 3.2268645480397nh
R_RL5 9 REF -1.751737599e-3
L_L6 2 10 2.1568851345755nh
R_RL6 10 3 -2.450872187e-4
L_L7 2 11 1.5815644461126nh
R_RL7 11 4 -1.068724783e-4
L_L8 3 12 5.3686190229424nh
R_RL8 12 REF -2.009763581e-3
L_L9 3 13 1.1347097154007nh
R_RL9 13 4 3.0197272823e-5
L_L10 4 14 4.7825418770557nh
R_RL10 14 REF -2.163444541e-3
Kn_K1 L_L1 L_L2 0.0740179827321
Kn_K2 L_L1 L_L5 0.9959070845812
Kn_K3 L_L1 L_L8 0.7740256142229
Kn_K4 L_L1 L_L10 0.8192914989107
Kn_K5 L_L2 L_L3 0.0457907325217
Kn_K6 L_L2 L_L4 0.0424778079369
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.065113733752
Kn_K9 L_L2 L_L7 -0.087102667647
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.013060419399
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7039343648416
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9938495237956
Kn_K16 L_L3 L_L7 0.6959645276734
Kn_K17 L_L3 L_L8 0.95024022783
Kn_K18 L_L3 L_L9 -0.548572116942
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6984692166093
Kn_K22 L_L4 L_L7 0.9916002507675
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2076961284005
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7734632494168
Kn_K27 L_L5 L_L10 0.8181170380386
Kn_K28 L_L6 L_L7 0.7048726205364
Kn_K29 L_L6 L_L8 0.946055342408
Kn_K30 L_L6 L_L9 -0.546534951963
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2087844327323
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3485968080518
Kn_K36 L_L8 L_L10 0.8897027980055
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_20 1 2 3 4 REF
C_C1 1 REF 21.283105653235pf
C_C2 1 3 11.017788711107pf
C_C3 2 4 33.206777627161pf
C_C4 3 REF 0.4437810101394pf
C_C5 4 REF 0.1393886434604pf
R_R1 1 2 -9.455183941484
L_L1 1 5 2.3772648315836nh
R_RL1 5 REF -3.25351032e-3
L_L2 1 6 0.4928587548635nh
R_RL2 6 2 0.5837581631714
L_L3 1 7 1.8872520297349nh
R_RL3 7 3 0.2169167233698
L_L4 1 8 1.4700753688884nh
R_RL4 8 4 0.3714445867775
L_L5 2 9 2.868447504657nh
R_RL5 9 REF 0.603802155838
L_L6 2 10 1.7794589906345nh
R_RL6 10 3 0.0889961913616
L_L7 2 11 1.189953138702nh
R_RL7 11 4 0.0238842073906
L_L8 3 12 4.271214297511nh
R_RL8 12 REF 0.2271120973961
L_L9 3 13 1.0906515038575nh
R_RL9 13 4 0.0207058283655
L_L10 4 14 3.865096843218nh
R_RL10 14 REF 0.3861057304989
Kn_K1 L_L1 L_L5 0.9100436084501
Kn_K2 L_L1 L_L8 0.7470926048232
Kn_K3 L_L1 L_L10 0.7871862909393
Kn_K4 L_L2 L_L3 0.3113985561286
Kn_K5 L_L2 L_L4 0.4540542830348
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.205588883382
Kn_K8 L_L2 L_L7 -0.138894771409
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.1175234723785
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.6804162535512
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.8659598759226
Kn_K15 L_L3 L_L7 0.5558676550932
Kn_K16 L_L3 L_L8 0.8384907380506
Kn_K17 L_L3 L_L9 -0.525489331919
Kn_K18 L_L3 L_L10 0.883489422612
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.461761917594
Kn_K21 L_L4 L_L7 0.8192721747127
Kn_K22 L_L4 L_L8 0.9500433443645
Kn_K23 L_L4 L_L9 0.2659368867406
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0833660422877
Kn_K26 L_L5 L_L7 0.0523144921406
Kn_K27 L_L5 L_L8 0.7656884439121
Kn_K28 L_L5 L_L9 -0.051841242965
Kn_K29 L_L5 L_L10 0.8324488517649
Kn_K30 L_L6 L_L7 0.6455539351547
Kn_K31 L_L6 L_L8 0.9721461350112
Kn_K32 L_L6 L_L9 -0.603021739104
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.2199510503756
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3467417126174
Kn_K38 L_L8 L_L10 0.8670333303968
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_21 1 2 3 4 REF
C_C1 1 2 215.25847625087pf
C_C2 1 4 2.3524076372522pf
C_C3 2 REF 1.8863001508856pf
C_C4 2 3 0.8099329800037pf
C_C5 3 REF 0.3645374180206pf
C_C6 4 REF 0.3776134664736pf
R_R1 1 2 -137.3423597983
L_L1 1 5 39.395180135857nh
R_RL1 5 REF -1.151299027638
L_L2 1 6 0.1612659111142nh
R_RL2 6 2 0.004675696587
L_L3 1 7 14.498071039722nh
R_RL3 7 3 0.0078980690555
L_L4 1 8 13.806208164589nh
R_RL4 8 4 0.0079305613144
L_L5 2 9 39.028650203247nh
R_RL5 9 REF -1.123994948337
L_L6 2 10 14.603124040147nh
R_RL6 10 3 -3.118852435e-5
L_L7 2 11 13.919261729641nh
R_RL7 11 4 1.0e-5
L_L8 3 12 53.614565232103nh
R_RL8 12 REF -1.176928906464
L_L9 3 13 1.2942426472591nh
R_RL9 13 4 1.945150405e-5
L_L10 4 14 52.911264215626nh
R_RL10 14 REF -1.175842599262
Kn_K1 L_L1 L_L2 0.1046991456056
Kn_K2 L_L1 L_L5 0.9979545613733
Kn_K3 L_L1 L_L8 0.8541640794223
Kn_K4 L_L1 L_L10 0.8596968853033
Kn_K5 L_L2 L_L3 0.0183814462592
Kn_K6 L_L2 L_L4 0.0161554765649
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.086771646265
Kn_K9 L_L2 L_L7 -0.091547662372
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9545591742534
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9944649234126
Kn_K15 L_L3 L_L7 0.9486962296374
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.229250007418
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9494217605756
Kn_K21 L_L4 L_L7 0.9941917393807
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0712517150476
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8530109645511
Kn_K26 L_L5 L_L10 0.8584475164487
Kn_K27 L_L6 L_L7 0.9548981269443
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.227503768786
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.071904254031
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1198994077992
Kn_K35 L_L8 L_L10 0.9878719637136
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_22 1 2 3 4 REF
C_C1 1 REF 0.0827375645597pf
C_C2 1 2 54.164086730546pf
C_C3 1 4 0.622651196835pf
C_C4 2 REF 0.7955039078398pf
C_C5 2 3 0.238350935627pf
C_C6 3 REF 0.3680680383874pf
C_C7 4 REF 0.3654934370467pf
L_L1 1 5 0.6742943895101nh
R_RL1 5 2 0.0337989270809
L_L2 1 6 55.402337880232nh
R_RL2 6 3 0.1229192109022
L_L3 1 7 54.576507338688nh
R_RL3 7 4 0.1190006369791
L_L4 2 8 56.203413712519nh
R_RL4 8 3 0.4251025738542
L_L5 2 9 55.382436517686nh
R_RL5 9 4 0.4193826508431
L_L6 3 10 1.31028877898nh
R_RL6 10 4 -2.723417856e-5
Kn_K1 L_L1 L_L2 -0.010371387843
Kn_K2 L_L1 L_L3 -0.010849582959
Kn_K3 L_L1 L_L4 -0.11982981739
Kn_K4 L_L1 L_L5 -0.121111816224
Kn_K5 L_L2 L_L3 0.9881138503624
Kn_K6 L_L2 L_L4 0.9939838522059
Kn_K7 L_L2 L_L5 0.9820423449831
Kn_K8 L_L2 L_L6 -0.125356816862
Kn_K9 L_L3 L_L4 0.9822350920862
Kn_K10 L_L3 L_L5 0.9938944583792
Kn_K11 L_L3 L_L6 0.0286444157537
Kn_K12 L_L4 L_L5 0.9882843209381
Kn_K13 L_L4 L_L6 -0.124177467185
Kn_K14 L_L5 L_L6 0.0287201009282
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_23 1 2 3 4 REF
C_C1 1 REF 0.3005199294129pf
C_C2 1 2 22.042287708461pf
C_C3 1 4 0.2775754797161pf
C_C4 2 REF 0.5830100558518pf
C_C5 2 3 0.1221916346605pf
C_C6 3 REF 0.3682079655686pf
C_C7 4 REF 0.3624737200239pf
L_L1 1 5 0.9118583068683nh
R_RL1 5 2 0.4016278387608
L_L2 3 6 1.3132891567166nh
R_RL2 6 4 1.8249518689e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_24 1 2 3 4 REF
C_C1 1 REF 0.3819882855127pf
C_C2 1 2 11.138901885769pf
C_C3 1 3 0.0516157030298pf
C_C4 1 4 0.1622244029352pf
C_C5 2 REF 0.52561677158pf
C_C6 2 3 0.0802398690495pf
C_C7 3 REF 0.3668829380191pf
C_C8 4 REF 0.3600023170698pf
L_L1 1 5 1.3022946741746nh
R_RL1 5 2 2.9820214397e-5
L_L2 3 6 1.3112323992592nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_25 1 2 3 4 REF
C_C1 1 REF 0.419433190767pf
C_C2 1 2 7.0065603273112pf
C_C3 1 3 0.0730975199147pf
C_C4 1 4 0.1171166132525pf
C_C5 2 REF 0.5104465095116pf
C_C6 2 3 0.0625705853775pf
C_C7 2 4 0.0282279427612pf
C_C8 3 REF 0.3650681387673pf
C_C9 4 REF 0.3575813967925pf
L_L1 1 5 1.7661879365104nh
R_RL1 5 2 3.5206461812e-4
L_L2 3 6 1.3088264314643nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_26 1 2 3 4 REF
C_C1 1 REF 0.4339518794226pf
C_C2 1 2 5.7556356662937pf
C_C3 1 3 0.0833669341015pf
C_C4 1 4 0.1013291031114pf
C_C5 2 REF 0.5084151770553pf
C_C6 2 3 0.0550475073389pf
C_C7 2 4 0.0469189020193pf
C_C8 3 REF 0.3638557623926pf
C_C9 4 REF 0.3560627880351pf
L_L1 1 5 1.8910830052908nh
R_RL1 5 2 9.4456481131e-5
L_L2 3 6 1.3077721919926nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param52_26

